US06420364B1
2-(1,1-dioxo-1H-1λ6-benzo[d]isothiazol-3-ylamino)-4,4-dimethyl-pentanoic Acid(4-Cyano-1-propylpiperidin-4-yl)-amide
The title compound was prepared starting from 3-chloro-benzo[d]isothiazole 1,1-dioxide and 2-amino-4,4-dimethyl-pentanoic acid (4-cyano-1-propyl-piperidin-4-yl)amide bis hydrochloride salt according to the procedure from Example 81, except that the compound was further purified by HPLC using a 20×250 mm C18 reverse phase column with the method being 20% acetonitrile in water to acetonitrile. MS, m/z 460=M+1.

reactant | 3-chloro-benzo[d]isothiazole 1,1-dioxide | ClC1=NS(C2=C1C=CC=C2)(=O)=O | C7H4ClNO2S
reactant | 2-amino-4,4-dimethyl-pentanoic acid (4-cyano-1-propyl-piperidin-4-yl)amide bis hydrochloride salt | Cl.Cl.C(#N)C1(CCN(CC1)CCC)NC(C(CC(C)(C)C)N)=O
product | 2-(1,1-dioxo-1H-1λ6-benzo[d]isothiazol-3-ylamino)-4,4-dimethyl-pentanoic Acid(4-Cyano-1-propylpiperidin-4-yl)-amide | C(#N)C1(CCN(CC1)CCC)NC(C(CC(C)(C)C)NC1=NS(C2=C1C=CC=C2)(=O)=O)=O | C23H33N5O3S
